US06562828B1
Synthesis of 4-[4-(2-Amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)-piperidin-1-yl]pyridine-3-carboxylic Acid Dihydrochloride
To a solution of 4-[4-(2-amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)piperidin-1-yl]pyridine-3-carboxylic acid methyl ester dihydrochloride (43 mg) in methanol (0.2 ml) was added 1N aqueous sodium hydroxide solution (0.1 ml), and the mixture was stirred under reflux for 3 hours. After completion of the reaction, the reaction mixture was neutralized with 1N-hydrochloric acid and the solvent was evaporated. The obtained residue was purified by reverse phase preparative thin layer chromatography (40% aqueous acetonitrile, 1% trifluoroacetic acid) and the obtained residue was treated with hydrogen chloride-ethanol solution and dried under reduced pressure to give the title compound (15 mg).

reactant | 4-[4-(2-amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)piperidin-1-yl]pyridine-3-carboxylic acid methyl ester dihydrochloride | 43 mg | Cl.Cl.COC(=O)C=1C=NC=CC1N1CCC(CC1)COC1=CC=C2CCN(CC2=C1)C(N)=N
reactant | sodium hydroxide | 1N, 0.1 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 0.2 ml | CO | CH4O
product | 4-[4-(2-Amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)-piperidin-1-yl]pyridine-3-carboxylic Acid Dihydrochloride | 15 mg | Cl.Cl.C(N)(=N)N1CC2=CC(=CC=C2CC1)OCC1CCN(CC1)C1=C(C=NC=C1)C(=O)O | InChI=1S/C22H27N5O3.2ClH/c23-22(24)27-10-6-16-1-2-18(11-17(16)13-27)30-14-15-4-8-26(9-5-15)20-3-7-25-12-19(20)21(28)29;;/h1-3,7,11-12,15H,4-6,8-10,13-14H2,(H3,23,24)(H,28,29);2*1H
